simulator lang=spectre
global 0

ahdl_include "../submission/polynomial_differential_vcvs.va"

Vp (inp 0) vsource type=pwl wave=[0 0.35 10n 0.35 10.1n 0.45 20n 0.45 20.1n 0.55 30n 0.55 30.1n 0.70 45n 0.70]
Vn (inn 0) vsource dc=0.45
XDUT (inp inn outp outn) polynomial_differential_vcvs vcmo=0.5 a1=2 a2=0 a3=1 a5=0 a7=0 vsat=0.3

tran tran stop=40n maxstep=25p
save inn inp outn outp
